US06605618B2
Dimethyl-carbamic acid 3-fluoro-4-({[4-(4-[2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino)-methyl)-phenyl ester
4-{[({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}carbonyl)amino]methyl}-3-fluorophenyl dimethylcarbamate formate (0.225 g, 0.6 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane according to Procedure give the title compound (0.125 g, 0.1 mmol).

reactant | 4-{[({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}carbonyl)amino]methyl}-3-fluorophenyl dimethylcarbamate formate | 0.6 mmol, 0.225 g | C(=O)O.CN(C(OC1=CC(=C(C=C1)CNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCN)F)=O)C
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | Dimethyl-carbamic acid 3-fluoro-4-({[4-(4-[2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino)-methyl)-phenyl ester | 0.1 mmol, 0.125 g | FC=1C=C(C=CC1CNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)OC(N(C)C)=O | C33H42FN5O6
